US09125969B2
To a solution of 4.64 g (0.04 mol) of hexanoic acid and 5.75 g (0.05 mol) of N-hydroxy succinimide in 100 mL distilled DMF, 10.3 g (0.05 mol) of DCCl was added. The mixture was cooled with an ice-water bath and stirred for 5 h. The dicyclohexyl urea (DCU) precipitate was removed by filtration, and the DMF solvent was removed by vacuum rotary evaporation. The yellow oil residue was washed with water and hexane to yield a white solid, which was vacuum dried at 78° C. to give 6.34 g (74%) of N-hexanoyloxy succinimide. IR (KBr): 1816 cm−1 (ν(C═O) of ester), 1745-1786 cm−1 (ν(C═O) of imide). 1H-NMR (DMSO-d6, ppm): 0.86 (3H, —CH3), 1.31 (4H, —(CH2)2CH3), 1.62 (2H, CH2CH2COO—), 2.64 (2H, —CH2COO—), 2.80 (4H, —COCH2CH2CO—).

reactant | hexanoic acid | 0.04 mol, 4.64 g | C(CCCCC)(=O)O | C6H12O2
reactant | N-hydroxy succinimide | 0.05 mol, 5.75 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | DMF | CN(C)C=O | C3H7NO
product | N-hexanoyloxy succinimide | 6.34 g, 74% | C(CCCCC)(=O)ON1C(CCC1=O)=O | C10H15NO4
